US07074817B2
[1-(4-Methylbenzyl)-5-phenyl-1H-indol-3-yl](oxo)acetic acid
Oxalyl chloride (0.474 mL, 5.43 mmol) was added dropwise to a stirring solution of 1-(4-methylbenzyl)-5-phenyl-1H-indole (0.46 g, 1.55 mmol) in THF (15 mL) at room temperature over a period of 5 minutes under a nitrogen atmosphere. After the reaction mixture was stirred at room temperature for 4 hours, the reaction was quenched carefully with water. The aqueous mixture was extracted with ethyl acetate. The extract was washed with water, and brine, dried over anhydrous magnesium sulfate, and concentrated to give the title compound as a yellow solid (0.41 g, 72%), m.p: 195-196° C. Mass spectrum (ESI, [M+H]+) m/z 370. 1HNMR (400 MHz, DMSO-d6): δ 13.95 (br s, 1H), 8.68 (s, 1H), 8.41 (s, 1H), 7.63-7.66 (m, 3H), 7.56 (d, 1H, J=10.4 Hz), 7.47 (t, 2H, J=7.5 Hz), 7.35 (t, 1H, J=7.3 Hz), 7.22 (d, 2H, J=8.1 Hz), 7.15 (d, 2H, J=8.0 Hz), 5.56 (s, 2H), and 2.25 ppm (s, 3H).

reactant | Oxalyl chloride | 5.43 mmol, 0.474 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-methylbenzyl)-5-phenyl-1H-indole | 1.55 mmol, 0.46 g | CC1=CC=C(CN2C=CC3=CC(=CC=C23)C2=CC=CC=C2)C=C1 | C22H19N
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | [1-(4-Methylbenzyl)-5-phenyl-1H-indol-3-yl](oxo)acetic acid | 0.41 g, 72% | CC1=CC=C(CN2C=C(C3=CC(=CC=C23)C2=CC=CC=C2)C(C(=O)O)=O)C=C1 | C24H19NO3
